US06265415B1
Synthesis of 8-(2,6-dimethylbenzyloxy)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine
A mixture of 8-hydroxy-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine (0.89 g, 5.0 mmol), sodium carbonate (1.5 g), sodium iodide (0.4 g), 2,6-dimethylbenzylchloride (0.7 g, 4.5 mmol) and acetone (60 ml) was stirred overnight. More sodium carbonate (1.0 g) was added. The reaction mixture was refluxed for 2 h. The reaction mixture was filtered and the solvent was removed in vacuo. The residue was suspended in CH2Cl2/MeOH (100:5) and filtered. Vacuum evaporation of solvent gave a residue which was purified by flash chromatography eluting with CH2Cl2—MeOH (100:4), collecting fractions, and recrystallized from CH2Cl2/CH3CN to give 0.37 g of the title compound.

reactant | 8-hydroxy-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine | 5.0 mmol, 0.89 g | OC=1C=2N(C=CC1)C(=C(N2)C)CO | C9H10N2O2
reactant | sodium carbonate | 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.4 g | [I-].[Na+]
reactant | 2,6-dimethylbenzylchloride | 4.5 mmol, 0.7 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | sodium carbonate | 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 8-(2,6-dimethylbenzyloxy)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine | 0.37 g | CC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CO)C(=CC=C1)C | C18H20N2O2
